US05578244
Preparation of 4-(2-(trans-(4-(3-methoxypropyl)-4-silacyclohexyl))ethyl)-4'-(3,4-difluorophenyl)biphenyl
35.5 g (100 mmol) of 4-(2-(trans-(4-(3-methoxypropyl)-4-silacyclohexyl))ethyl)phenyl bromide was dripped into a mixture of 2.4 g of magnesium (100 mmol) and 60 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 300 ml THF solution of 34.5 g of 4-chloro-3',4'-difluorobiphenyl and a catalytic amount of bis (1,3-diphenylphosphinopropane) nickel (II) chloride. After a conventional after treatment, the reaction mixture thus obtained was purified by means of chromatography to obtain 36.3 g (yield 81%) of the target product.

reactant | 4-(2-(trans-(4-(3-methoxypropyl)-4-silacyclohexyl))ethyl)phenyl bromide | 100 mmol, 35.5 g | COCCC[Si@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)Br | C17H27BrOSi
reactant | magnesium | 100 mmol, 2.4 g | [Mg] | Mg
reactant | 4-chloro-3',4'-difluorobiphenyl | 34.5 g | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C12H7ClF2
catalyst | bis (1,3-diphenylphosphinopropane) nickel (II) chloride | [Ni](Cl)Cl.C1(=CC=CC=C1)PCCCPC1=CC=CC=C1.C1(=CC=CC=C1)PCCCPC1=CC=CC=C1
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-(2-(trans-(4-(3-methoxypropyl)-4-silacyclohexyl))ethyl)-4'-(3,4-difluorophenyl)biphenyl | 36.3 g, yield 81% | COCCC[Si@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C29H34F2OSi
